US05859088
1-Octene-propylene copolymer (S-5)
The procedure for the preparation of copolymer S-1 was repeated except that 1-hexene was replaced with 1-octene. A tacky amorphous polymer was obtained in 82% conversion having an inherent viscosity of 3.8 dL/g in n-hexane and a Tg of -56° C. It contained 95 mole percent of 1-octene and 5 mole percent of propylene.

reactant | 1-hexene | C=CCCCC | C6H12
reactant | 1-octene | C=CCCCCCC | C8H16
reactant | propylene | C=CC | C3H6
solvent | n-hexane | CCCCCC | C6H14
product | 1-Octene propylene | C=CCCCCCC.C=CC | InChI=1S/C8H16.C3H6/c1-3-5-7-8-6-4-2;1-3-2/h3H,1,4-8H2,2H3;3H,1H2,2H3
